US06046192
To a stirred suspension of (1R)-1-(4-benzyloxyphenyl)-2-[((2S)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)amino]-ethanol (350 mg) and N,N-diisopropylethylamine (0.78 ml) in dichloromethane (3.6 ml) was added trifluoroacetic anhydride (0.38 ml) at -15° C. After reaction for 30 minutes, the reaction mixture was washed with water and dried over anhydrous magnesium sulfate, and the solvent was removed in vacuo. The resulting residue was dissolved in N,N-dimethylformamide (4.5 ml), and 2-bromo-N,N-dimethylacetamide (0.11 ml), cesium carbonate (880 mg) and molecular sieves 4A powder (350 mg) were added to the solution. After the mixture was stirred at room temperature for 2 hours, diethylamine (0.11 ml) was added to the reaction mixture. After reaction at room temperature for 20 minutes, water (3.5 ml) and methanol (3.5 ml) were added to the reaction mixture under ice-cooling and the mixture was stirred at room temperature for 1.5 hours. Brine was poured into the reaction mixture and the resulting mixture was extracted with ethyl acetate. The extract was washed with brine and dried over anhydrous magnesium sulfate, and the solvent was removed in vacuo. Purification of the residue by medium pressure liquid column chromatography on aminopropyl silica gel (eluent: chloroform/methanol=50/1) gave 2-[(2S)-2-[[(2R)-2-(4-benzyloxyphenyl)-2-hydroxy-ethyl]amino]-1,2,3,4-tetrahydronaphthalen-7-yloxy]-N,N-dimethylacetamide (283 mg) as an amorphous.

reactant | (1R)-1-(4-benzyloxyphenyl)-2-[((2S)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)amino]-ethanol | 350 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)[C@H](CN[C@@H]1CC2=CC(=CC=C2CC1)O)O | C25H27NO3
reactant | N,N-diisopropylethylamine | 0.78 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trifluoroacetic anhydride | 0.38 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | 3.5 ml | O | H2O
solvent | dichloromethane | 3.6 ml | ClCCl | CH2Cl2
solvent | Brine | [Cl-].[Na+].O
solvent | methanol | 3.5 ml | CO | CH4O
product | 2-[(2S)-2-[[(2R)-2-(4-benzyloxyphenyl)-2-hydroxy-ethyl]amino]-1,2,3,4-tetrahydronaphthalen-7-yloxy]-N,N-dimethylacetamide | 283 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)[C@H](CN[C@@H]1CC2=CC(=CC=C2CC1)OCC(=O)N(C)C)O | C29H34N2O4
